US08835465B2
3,5,6-Trichloro-N-(5-cyclopropyl-1H-pyrazol-3-yl)pyridin-2-amine
A solution of 2,3,5,6-tetrachloropyridine (0.20 g, 0.9 mmol), 5-cyclopropyl-1H-pyrazol-3-amine (0.20 g, 1.8 mmol), and triethylamine (0.10 g, 1.4 mmol) in NMP (2 ml) was heated in a microwave at 200° C. for 30 min. The reaction was cooled to 25° C., quenched with water (10 ml), and extracted with MTBE (4×30 ml). The combined organic fractions were then dried, filtered, and concentrated. The resulting solid was purified by column chromatography (DCM-MeOH=50:1) to give the title compound (0.035 g, 12%). MS: Calcd.: 303. Found: [M+H]+ 303.

reactant | 2,3,5,6-tetrachloropyridine | 0.9 mmol, 0.20 g | ClC1=NC(=C(C=C1Cl)Cl)Cl | C5HCl4N
reactant | 5-cyclopropyl-1H-pyrazol-3-amine | 1.8 mmol, 0.20 g | C1(CC1)C1=CC(=NN1)N | C6H9N3
reactant | triethylamine | 1.4 mmol, 0.10 g | C(C)N(CC)CC | C6H15N
solvent | NMP | 2 ml | CN1CCCC1=O | C5H9NO
product | 3,5,6-Trichloro-N-(5-cyclopropyl-1H-pyrazol-3-yl)pyridin-2-amine | 0.035 g, 12% | ClC=1C(=NC(=C(C1)Cl)Cl)NC1=NNC(=C1)C1CC1 | C11H9Cl3N4
